US06734205B2
2-[2-[[[Amino(imino)methyl]amino]carbonyl]-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]ethylphosphonic acid hydrobromide (2.34 g, 4.24 mmol) was suspended in distilled water (100 ml), followed by adding thereto a 1.0N aqueous sodium hydroxide solution (12.7 ml, 12.7 mmol) to effect dissolution and adjust the pH to 11. The resulting solution was filtered and the filtrate was adjusted to a pH of 1 or lower with a 1.0N aqueous hydrochloric acid solution (8.48 ml, 8.48 mmol). After confirming that the filtrate became a white suspension, the filtrate was adjusted to pH 5 with a 1.0N aqueous sodium hydroxide solution and the white solid precipitated was collected by filtration. The white solid obtained was washed with water and then dried under reduced pressure to obtain 1.60 g of 2-[2-[[[amino(imino)methyl]amino]carbonyl]-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]-ethylphosphonic acid as a white solid.

reactant | 2-[2-[[[Amino(imino)methyl]amino]carbonyl]-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]ethylphosphonic acid hydrobromide | 4.24 mmol, 2.34 g | Br.NC(=N)NC(=O)C=1N(C2=CC(=CC(=C2C1)C(F)(F)F)CCP(O)(O)=O)C
reactant | sodium hydroxide | 12.7 mmol, 1.0N, 12.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 8.48 mmol, 1.0N, 8.48 ml | Cl | ClH
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2-[2-[[[amino(imino)methyl]amino]carbonyl]-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]-ethylphosphonic acid | 1.60 g | NC(=N)NC(=O)C=1N(C2=CC(=CC(=C2C1)C(F)(F)F)CCP(O)(O)=O)C | C14H16F3N4O4P
